US08039639B2
Step G: Preparation of di-tert-butyl 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethyl phosphate 80:
A solution of 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)phenyl)methyl)urea (1.5 g, 2.69 mmol) in DMF (0.2M, 15 mL) was treated with imidazole (183 mg, 2.69 mmol), and imidazole hydrochloride (423 mg, 4.04 mmol) at room temperature. After complete dissolution was observed, di-tert-butyl diisopropylphosphoramidite (1.28 mL, 4.04 mmol) was added. Stirring was continued at room temperature for 18 hours. Hydrogen peroxide (50% aqueous, 0.535 mL, 9.43 mmol) was added at room temperature slowly, and stirring was continued for 1 hour. The reaction was completed as detected by LC and TLC. The residue was distributed between dichloromethane and 10% aqueous Na2S2O3. The aqueous layer was extracted with EtOAc (2×). The combined organic extracts were washed with brine, filtered through 1PS paper, evaporated in vacuo to yellow oil. The oil was purified by a silica gel plug eluting with DCM, 3-5% MeOH/DCM. Desired fractions were evaporated in vacuo to provide the desired product as a white foam, 1.59 g (79%). MS (APCI+) m/z 749 (M+) was detected. 1H NMR (400 MHz, DMSO-d6) δ 8.29 (s, 1H), 8.01 (s, 1H), 7.73 (d, 1H, J=9.1 Hz), 6.79-7.35 (m, 8H), 6.23 (s, 1H), 4.62 (t, 2H, J=4.7 Hz), 4.26 (m, 4H), 2.35 (s, 3H), 1.43, s, 9H), 1.25 (s, 18H).

reactant | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)phenyl)methyl)urea | 2.69 mmol, 1.5 g | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | C31H33FN6O3
reactant | imidazole | 2.69 mmol, 183 mg | N1C=NC=C1 | C3H4N2
reactant | imidazole hydrochloride | 4.04 mmol, 423 mg | Cl.N1C=NC=C1
reactant | di-tert-butyl diisopropylphosphoramidite | 4.04 mmol, 1.28 mL | C(C)(C)N(P(OC(C)(C)C)OC(C)(C)C)C(C)C | C14H32NO2P
reactant | Hydrogen peroxide | 9.43 mmol, 0.535 mL | OO | H2O2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DMF | 0.2M, 15 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | di-tert-butyl 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethyl phosphate | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCN1N=CC2=CC(=CC=C12)OC1=C(C=C(C=C1)F)CNC(=O)NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C | C39H50FN6O6P
